US05409957
Synthesis of N-2-(3,4-dichlorophenoxy)ethyl-N-n-octylamine (compound No. 45)
In 20 ml of ethanol was dissolved 2.06 g (7.63 millimoles) of 2-(3,4-dichlorophenoxy)ethyl bromide, and 1.06 g (10.0 millimoles) of anhydrous sodium carbonate and 3.48 g (27.0 millimoles) of n-octylamine were added to the solution. The mixture was heated and refluxed on an oil bath for 6 hours. After cooling, the reaction mixture was poured into 100 ml of water and extracted with 20 ml of chloroform three times.

reactant | 2-(3,4-dichlorophenoxy)ethyl bromide | 7.63 millimoles, 2.06 g | ClC=1C=C(OCCBr)C=CC1Cl | C8H7BrCl2O
reactant | sodium carbonate | 10.0 millimoles, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-octylamine | 27.0 millimoles, 3.48 g | C(CCCCCCC)N | C8H19N
reactant | water | 100 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-2-(3,4-dichlorophenoxy)ethyl-N-n-octylamine | ClC=1C=C(OCCNCCCCCCCC)C=CC1Cl | C16H25Cl2NO
